US07786308B2
To a solution of 1-benzyl-4-oxo-piperidine (226.8 g, 1.2 mol) and phenylamine (111.6 g, 1.2 mol) in acetic acid (1000 mL) was added dropwise the solution of potassium cyanide (117 g, 1.8 mol) in water (200 mL). The reaction mixture was stirred at 25° C. for 24 h and then poured into ice-water. The mixture was basified with ammonium hydroxide and extracted with CH2Cl2. The combined organic layers were washed with brine, dried over Na2SO4 and concentrated under reduced pressure to give crude benzyl-4-phenylamino-piperidine-4-carbonitrile (255.36 g, 73.1%), which was used directly in the next step. 1H NMR (300 MHz, CDCl3) δ 7.22-7.36 (m, 7H), 6.90-6.94 (m, 3H), 3.65 (br s, 1H), 3.58 (s, 2H), 2.74-2.86 (m, 2H), 2.44-2.52 (m, 2H), 2.32-2.37 (m, 2H), 1.92-2.00 (m, 2H).

reactant | 1-benzyl-4-oxo-piperidine | 1.2 mol, 226.8 g | C(C1=CC=CC=C1)N1CCC(CC1)=O | C12H15NO
reactant | phenylamine | 1.2 mol, 111.6 g | C1(=CC=CC=C1)N | C6H7N
reactant | potassium cyanide | 1.8 mol, 117 g | [C-]#N.[K+]
reactant | ammonium hydroxide | [OH-].[NH4+]
solvent | acetic acid | 1000 mL | C(C)(=O)O | C2H4O2
solvent | water | 200 mL | O | H2O
product | benzyl-4-phenylamino-piperidine-4-carbonitrile | 255.36 g, 73.1% | C(C1=CC=CC=C1)N1CCC(CC1)(C#N)NC1=CC=CC=C1 | C19H21N3
